US08912210B2
Step B: 6-Methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)pyridin-2(1H)-one
Argon was bubbled through a stirred solution of 5-bromo-6-methyl-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one (9.43 g, 34.9 mmol) in THF (280 mL) for 15 min. To this solution were added 2,3,5-trifluorophenylboronic acid (12.3 g, 69.8 mmol), then cesium fluoride (10.6 g, 69.8 mmol), and finally bis(tri-tert-butylphosphine)palladium(0) (892 mg, 1.75 mmol), and argon was bubbled through the mixture for 5 min after each addition. The reaction mixture was stirred at ambient temperature for 90 min and was then partitioned between saturated aqueous sodium bicarbonate (500 mL) and EtOAc (600 mL). The organic layer was removed and the aqueous phase was extracted further with EtOAc (300 mL). The combined organic extracts were washed with brine, then dried over sodium sulfate, filtered, and concentrated to dryness in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexanes:EtOAc—100:0 to 0:100, to give the title compound. MS: m/z=322.0 (M+1).

reactant | 5-bromo-6-methyl-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one | 34.9 mmol, 9.43 g | BrC=1C=CC(N(C1C)CC(F)(F)F)=O | C8H7BrF3NO
reactant | 2,3,5-trifluorophenylboronic acid | 69.8 mmol, 12.3 g | FC1=C(C=C(C=C1F)F)B(O)O | C6H4BF3O2
reactant | cesium fluoride | 69.8 mmol, 10.6 g | [F-].[Cs+]
solvent | THF | 280 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 1.75 mmol, 892 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 6-Methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)pyridin-2(1H)-one | CC1=C(C=CC(N1CC(F)(F)F)=O)C1=C(C(=CC(=C1)F)F)F | C14H9F6NO
